US03987047
1,2,4,5-Tetrahydro-9-methoxy-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride was prepared from 1,2,4,5-tetrahydro-9-methoxy-11-methyl-3H-azepino[4,5-b]quinoline and ethyl chloroformate analogous to Example 63.

reactant | 1,2,4,5-tetrahydro-9-methoxy-11-methyl-3H-azepino[4,5-b]quinoline | COC1=CC=2C(=C3C(=NC2C=C1)CCNCC3)C | C15H18N2O
reactant | ethyl chloroformate | ClC(=O)OCC | C3H5ClO2
product | 1,2,4,5-Tetrahydro-9-methoxy-11-methyl-3-azepino[4,5-b]quinoline-carboxylic acid ethyl ester hydrochloride | Yield: 66% | Cl.C(C)OC(=O)N1CCC2=NC=3C=CC(=CC3C(=C2CC1)C)OC | InChI=1S/C18H22N2O3.ClH/c1-4-23-18(21)20-9-7-14-12(2)15-11-13(22-3)5-6-16(15)19-17(14)8-10-20;/h5-6,11H,4,7-10H2,1-3H3;1H
